US06777417B2
1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide-hydrochloide (1.34 g, 7 mmol), anhydrous 1-hydroxybenzotriazole (0.95 g, 7 mmol), triethylamine(1.0 ml, 7.5 mmol) and N-methylpiperazine (664 μl, 6 mmol) were added to a mixture of [3-(2-formyl-4,5,6,7-tetrahydro-1H-indol-3-yl)-propionic acid] (1.1 g, 5 mmol) in 20 ml of N,N-dimethylformamide. The reaction was stirred at room temperature overnight. Thin layer chromatography (methanol: dichloromethane 5:1) showed one major spot. The reaction solution was concentrated under high vacuum over night then the residue was purified by flash chromatography and eluting with (dichloromethane: methanol 15/1, 10/1, 5/1) to give 3-[3-(4-methyl-piperazin-1-yl)-3-oxo-propyl]-4,5,6,7-tetrahydro-1H-indole-2-carbaldehyde (1.18 g, 78% yield).

reactant | 1-hydroxybenzotriazole | 7 mmol, 0.95 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 7.5 mmol, 1.0 ml | C(C)N(CC)CC | C6H15N
reactant | N-methylpiperazine | 6 mmol, 664 μl | CN1CCNCC1 | C5H12N2
reactant | 3-(2-formyl-4,5,6,7-tetrahydro-1H-indol-3-yl)-propionic acid | C(=O)C=1NC=2CCCCC2C1CCC(=O)O | C12H15NO3
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | methanol dichloromethane | CO.ClCCl
product | 3-[3-(4-methyl-piperazin-1-yl)-3-oxo-propyl]-4,5,6,7-tetrahydro-1H-indole-2-carbaldehyde | 1.18 g, 78% yield | CN1CCN(CC1)C(CCC1=C(NC=2CCCCC12)C=O)=O | C17H25N3O2
